US07390903B2
To a stirred solution of 59 mg (0.24 mmol) (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-thiophen-2-yl-methanone in 2 ml acetic acid was added 0.038 ml (0.24 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 20:1) afforded 19 mg (22%) 2,2,2-trifluoro-1-(2-methyl-4-thiophen-2-yl-6,7-dihydro-5H-cyclopenta[4,5]thieno [2,3-b]pyridin-3-yl)-ethanone as a colorless oil. ES-MS m/e (%): 368 (M+H+, 100).

reactant | (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-thiophen-2-yl-methanone | 0.24 mmol, 59 mg | NC1=C(C2=C(S1)CCC2)C(=O)C=2SC=CC2 | C12H11NOS2
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.24 mmol, 0.038 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2,2,2-trifluoro-1-(2-methyl-4-thiophen-2-yl-6,7-dihydro-5H-cyclopenta[4,5]thieno [2,3-b]pyridin-3-yl)-ethanone | 19 mg, 22% | FC(C(=O)C=1C(=C2C(=NC1C)SC1=C2CCC1)C=1SC=CC1)(F)F | C17H12F3NOS2
